US08222416B2
A mixture of 2-[2-cyclopentyl-1-(3,5-dimethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (90 mg, 0.28 mmol) and 10% palladium on activated carbon (30 mg) in methanol (200 mL) was heated at 50° C. under hydrogen (50 psi) for 6 h. The mixture was cooled to room temperature, the catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[2-cyclopentyl-1-(3,5-dimethyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (23 mg, 25%): LC/MS m/e calcd for C22H26N [M+H]+ 319.47, observed 319.2; 1H NMR (400 MHz, CDCl3) δ ppm 8.12 (br. s., 1H), 8.05 (d, J=7.8 Hz, 1H), 7.00-7.20 (m, 4H), 6.42 (s, 1H), 5.31 (s, 1H), 4.09 (t, J=7.8 Hz, 1H), 2.08-2.26 (m, 8H), 1.57-1.85 (m, 5H), 1.42-1.53 (m, 2H), 1.14-1.24 (m, 2H).

reactant | 2-[2-cyclopentyl-1-(3,5-dimethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 0.28 mmol, 90 mg | C1(CCCC1)C=C(C1=CC(=CC(=C1)C)C)C1=CC=2C(=NC=CC2)N1 | C22H24N2
catalyst | palladium on activated carbon | 30 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 2-[2-cyclopentyl-1-(3,5-dimethyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 23 mg, 25% | C1(CCCC1)CC(C1=CC(=CC(=C1)C)C)C1=CC=2C(=NC=CC2)N1 | C22H26N2
